US04731458
A solution containing trichloroacetyl chloride (187 g, 1.03 moles) and phosphorous oxychloride (158 g, 1.03 moles), both dissolved in 500 ml ether (1700 ml) is added dropwise to a reaction vessel containing zinc/copper couple (75 g, 1.15 moles), 3-(5-ethoxyheptyl)cyclopentene (170 g, 0.573 moles), and ether (1700 ml). After the addition is complete the reaction is refluxed for 4 hours. The reaction vessel is cooled to room temperature and the mixture neutralized by adding it to a saturated solution of sodium bicarbonate. The solution is filtered, the phases separated, and the aqueous layer is extracted with ether. The organic phases are combined and dried over anhydrous sodium sulfate. The solvent is removed under vacuum leaving a clear yellow oil. The crude product is fractionally distilled under vacuum leaving the product as a clear, colorless oil of 7,7-dichloro-4-(5-ethoxyheptyl)bicyclo [3.2.0]heptan 6-one, BP 145° C./0.3 mm.

reactant | trichloroacetyl chloride | 1.03 moles, 187 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | phosphorous oxychloride | 1.03 moles, 158 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(5-ethoxyheptyl)cyclopentene | 0.573 moles, 170 g | C(C)OC(CCCCC1C=CCC1)CC | C14H26O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | zinc copper | [Zn].[Cu]
solvent | ether | 1700 ml | CCOCC | C4H10O
product | 7,7-dichloro-4-(5-ethoxyheptyl)bicyclo [3.2.0]heptan 6-one | ClC1(C(C2C(CCC12)CCCCC(CC)OCC)=O)Cl | C16H26Cl2O2
